* source 2,4,2-FUNCIONAMIENTO-CON-CARGAS-NO-IDEALES
V_V3         N01549 0  
+PULSE 0 1 10 10ns 10ns 100us 20ms
V_V4         N01585 0  
+PULSE 0 1 10 10ns 10ns 100us 20ms
X_X1         N01581 N01483 N01463 2N1595
V_V5         N01669 0  
+PULSE 0 1 0 10ns 10ms 100us 20ms
X_X3         N01601 N01549 N01463 2N1595
X_X2         N01601 N01549 N01463 2N1595
V_V1         N01573 N01601  AC 0
+SIN 45° 220Vrms 50hz 0 0 0
X_X4         0 N01585 N01581 2N1595
L_L1         N01573 N01581  1nH  
X_X5         0 N01669 N01601 2N1595
V_V2         N01483 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
R_R1         N02400 N01463  1  
L_L2         N02400 N021481  6mh  
V_V6         N021481 0 DC 120  
