* source PARTE 2,2
L_L1         N04749 N00707  2mH  
L_L7         N00889 N00663  10mH  
R_R1         N00659 N00663  1  
L_L8         N00707 N00635  1mH  
L_L2         N00695 N00703  2mH  
L_L9         N00703 N00639  1mH  
L_L10         N00711 N00643  1mH  
L_L3         N04753 N00711  2mH  
V_V2         N00695 N00671  AC 0
+SIN 0 310 60 0 0 0
V_V5         N02971 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V6         N02984 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V7         N03000 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V8         N02836 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V9         N02872 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V10         N02913 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
X_X7         0 N03000 N00643 2N1595
X_X8         0 N02984 N00639 2N1595
X_X9         0 N02971 N00635 2N1595
X_X10         N00635 N02836 N00889 2N1595
X_X11         N00639 N02872 N00889 2N1595
X_X12         N00643 N02913 N00889 2N1595
V_V11         N00659 0 300Vdc
V_V3         N04749 N00671  AC 0
+SIN 0 310 60 0 0 0
V_V4         N04753 N00671  AC 0
+SIN 0 310 60 0 0 0
