* source PARTE 2,1
V_V2         N00505 0  AC 0
+SIN 0 410 60 0 0 2
L_L1         N04301 N00517  1mH  
L_L2         N00505 N00509  1mH  
L_L3         N04276 N00531  1mH  
R_R1         N00517 N00535  1m  
R_R2         N00509 N00547  1m  
R_R3         N00531 N00559  1m  
X_X1         N00535 N02133 N00585 2N1599
X_X2         N00597 N02874 N00535 2N1599
X_X3         N00547 N03155 N00616 2N1599
X_X4         N00609 N02862 N00547 2N1599
X_X5         N00559 N03180 N00585 2N1599
X_X6         N00597 N02850 N00559 2N1599
V_V4         N02850 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V5         N02862 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V6         N02874 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V7         N02133 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V8         N03155 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V9         N03180 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
V_V3         N04301 0  AC 0
+SIN 0 410 60 0 0 1
V_V10         N04276 0  AC 0
+SIN 0 410 60 0 0 3
I_I1         N00616 N00609 DC 45Adc  
