* source PRINCIPIOS DE FUNCIONAMIENTO DEL TIRISTOR
V_V2         N00271 0  AC 0
+SIN 0 220Vrms 50hz 0 0 0
V_V3         N00235 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
R_R1         0 N00264  10  
X_X1         N00271 N00235 N00264 2N1595
