* source RECTIFICADOR MONOFASICO CONTROLADO
V_V2         N01483 0  
+PULSE 0 1 0 10ns 10ns 100us 20ms
X_X4         0 N01585 N01581 2N1595
I_I1         N01463 0 DC 10A  
X_X1         N01581 N01483 N01463 2N1595
V_V4         N01585 0  
+PULSE 0 1 10 10ns 10ns 100us 20ms
V_V1         N01573 N01601  AC 0
+SIN 0 220Vrms 50hz 0 0 0
L_L1         N01573 N01581  1mh  
D_D3         0 N01601 D1N1190 
D_D4         N01601 N01463 D1N1190 
